US05789623
Preparation of 2'-hydroxy-2-[(2-tolyl-phenyl)phosphino]biphenyl
16.4 g (70 mmol) of 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorine in 50 ml of anhydrous o-xylene are introduced, in an argon atmosphere with stirring, and a solution of 70 mmol of 2-tolylmagnesium bromide in tetrahydrofuran are added dropwise at -10° C. The mixture is slowly heated to 25° C. and stirred for 3 hours. A solution of 70 mmol of phenylmagnesium bromide in 50 ml of diethyl ether is added dropwise and the mixture is then heated to 65° C., the diethyl ether being distilled off. The mixture is stirred for a further 2 hours at 120° C., cooled to room temperature and 100 ml of water are added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. 25.8 g of colorless crystals are obtained. By recrystallization from methanol/water, 10:1, 20.4 g (79%) of colorless crystals having melting point 98 at 101° C. are obtained.

reactant | 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorine | 70 mmol, 16.4 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | 2-tolylmagnesium bromide | 70 mmol | C1(=C(C=CC=C1)[Mg]Br)C
reactant | phenylmagnesium bromide | 70 mmol | C1(=CC=CC=C1)[Mg]Br
solvent | o-xylene | 50 ml | CC=1C=CC=CC1C | C8H10
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2'-hydroxy-2-[(2-tolyl-phenyl)phosphino]biphenyl | 25.8 g | OC1=C(C=CC=C1)C1=C(C=CC=C1)PC1=C(C=CC=C1)C1=C(C=CC=C1)C | C25H21OP
